US07479502B2
Proceeding as in Reference 21, but substituting 5-formyl-6-methoxy-biphenyl-3-sulfonamide and 3-phenyl-propanoyl chloride, gave 5-formyl-6-methoxy-N-3-phenyl-propanoyl)-biphenyl-3-sulfonamide.

reactant | 5-formyl-6-methoxy-biphenyl-3-sulfonamide | C(=O)C=1C=C(C=C(C1OC)C1=CC=CC=C1)S(=O)(=O)N | C14H13NO4S
reactant | 3-phenyl-propanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | biphenyl-3-sulfonamide | C1(=CC(=CC=C1)S(=O)(=O)N)C1=CC=CC=C1 | C12H11NO2S
